US05856503
Analogously to Example 25, from 1-(4-bromo-phenyl)-3,4-dihydro-isoquinolin-6-ol and (E)-1,4-dibromo-2-butene and after reaction with N-allyl-methyl-amine there is obtained (E)-allyl-[4-[1-(4-bromo-phenyl)-3,4-dihydro-isoquinolin-6-yloxy]-but-2-enyl]-methyl-amine, which is converted into the fumarate, MS: m/e 425 (M+H+, 1 Br).

reactant | 1-(4-bromo-phenyl)-3,4-dihydro-isoquinolin-6-ol | BrC1=CC=C(C=C1)C1=NCCC2=CC(=CC=C12)O | C15H12BrNO
reactant | (E)-1,4-dibromo-2-butene | BrC\C=C\CBr | C4H6Br2
reactant | N-allyl-methyl-amine | C(C=C)NC | C4H9N
product | (E)-allyl-[4-[1-(4-bromo-phenyl)-3,4-dihydro-isoquinolin-6-yloxy]-but-2-enyl]-methyl-amine | C(C=C)N(C)C\C=C\COC=1C=C2CCN=C(C2=CC1)C1=CC=C(C=C1)Br | C23H25BrN2O
